US06982348B2
N-((1RS,2SR)-2-(6-chloro-3-pyridyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-4-fluoro-1-naphthalenecarboxamide
To a solution of (1RS,2SR)-2-amino-1-(6-chloro-3-pyridyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol (250 mg, 0.76 mmol) in acetonitrile (15 ml) were added 4-fluoronaphthalenecarboxylic acid (144 mg, 0.76 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (218 mg, 1.14 mmol) and 1-hydroxy-1H-benzotriazole (116 mg, 0.76 mmol), and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the title compound (324 mg, 85%).

reactant | (1RS,2SR)-2-amino-1-(6-chloro-3-pyridyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol | 0.76 mmol, 250 mg | NC(C(O)C=1C=NC(=CC1)Cl)CC1=CC=C(C=C1)C(F)(F)F | C15H14ClF3N2O
reactant | 4-fluoronaphthalenecarboxylic acid | 0.76 mmol, 144 mg | FC1=CC=C(C2=CC=CC=C12)C(=O)O | C11H7FO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.14 mmol, 218 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole | 0.76 mmol, 116 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | N-((1RS,2SR)-2-(6-chloro-3-pyridyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-4-fluoro-1-naphthalenecarboxamide | 324 mg, 85% | ClC1=CC=C(C=N1)C(C(CC1=CC=C(C=C1)C(F)(F)F)NC(=O)C1=CC=C(C2=CC=CC=C12)F)O | C26H19ClF4N2O2
